US04931560
Preparation of 2-phenylamino-4-methyl-6-cyclopropylpyrimidine
10 g (51 mmol) of phenylguanidine hydrogen carbonate and 9.7 g (77 mmol) of 1-cyclopropyl-1,3-butanedione are heated at 110° C. for 6 hours with stirring, the evolution of carbon dioxide which occurs subsiding as the reaction progresses. After the dark brown emulsion has been cooled to room temperature, 50 ml of diethyl ether are added and the mixture is washed twice with 20 ml of water each time, dried over sodium sulfate and filtered, and the solvent is evaporated. The dark brown oil which remains (=13.1 g) is purified by column chromatography over silica gel (diethyl ether/toluene: 5/3). After the eluant mixture has been evaporated off, the brown oil is made to crystallise and recrystallised from diethyl ether/petroleum ether at 30°-50° C. Light-brown crystals are obtained. Melting point: 67°-69° C.; yield: 8.55 g (38 mmol) (=74.5% of the theoretical yield).

reactant | phenylguanidine hydrogen carbonate | 51 mmol, 10 g | C(O)(O)=O.C1(=CC=CC=C1)NC(=N)N
reactant | 1-cyclopropyl-1,3-butanedione | 77 mmol, 9.7 g | C1(CC1)C(CC(C)=O)=O | C7H10O2
reactant | carbon dioxide | C(=O)=O | CO2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-phenylamino-4-methyl-6-cyclopropylpyrimidine | C1(=CC=CC=C1)NC1=NC(=CC(=N1)C)C1CC1 | C14H15N3
